US09422307B2
N2-(6-(4-ethylpiperazin-1-yl)pyridin-3-yl)-7-(quinolin-3-yl)thieno[3,2-d]pyrimidin-2,4-diamine
The target compound of Example 30 (21 mg, 68% yield) was prepared in the same manner as Step 9 of Example 1 using 2-chloro-7-(quinolin-3-yl)thieno[3,2-d]pyrimidin-4-amine (20 mg, 0.064 mmol) and 6-(4-ethylpiperazin-1-yl)pyridin-3-amine (20 mg, 0.096 mmol).

reactant | 2-chloro-7-(quinolin-3-yl)thieno[3,2-d]pyrimidin-4-amine | 0.064 mmol, 20 mg | ClC=1N=C(C2=C(N1)C(=CS2)C=2C=NC1=CC=CC=C1C2)N | C15H9ClN4S
reactant | 6-(4-ethylpiperazin-1-yl)pyridin-3-amine | 0.096 mmol, 20 mg | C(C)N1CCN(CC1)C1=CC=C(C=N1)N | C11H18N4
product | N2-(6-(4-ethylpiperazin-1-yl)pyridin-3-yl)-7-(quinolin-3-yl)thieno[3,2-d]pyrimidin-2,4-diamine | 21 mg, 68% yield | C(C)N1CCN(CC1)C1=CC=C(C=N1)NC=1N=C(C2=C(N1)C(=CS2)C=2C=NC1=CC=CC=C1C2)N | C26H26N8S
